US07893056B2
To a solution of (2S)-2-[(phenylmethyl)amino]-1-propanol (10.52 g, 63.67 mmol) in THF (65 mL) was added a solution of K2CO3 (26.40 g, 191.0 mmol) in water (65 mL). The vigorously stirred mixture was cooled to 0° C., and chloroacetyl chloride (7.10 mL, 89.14 mmol) was added dropwise over 20 min. The mixture was stirred for 1 h, and then an additional portion of chloroacetyl chloride (0.500 mL, 6.278 mmol) was added dropwise. The mixture was stirred for 1 h, and then the mixture was adjusted to pH>13 with 50% aq. NaOH (ca. 20 mL). The mixture was stirred and warmed to room temperature overnight, and then extracted with DCM (250 mL). The organic phase was washed with 1 N aq. HCl, followed by water. The organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to give (5S)-5-methyl-4-(phenylmethyl)-3-morpholinone (12.74 g, 97%) as a colorless oil. LCMS: (M+H)+: 206.1.

reactant | (2S)-2-[(phenylmethyl)amino]-1-propanol | 63.67 mmol, 10.52 g | C1(=CC=CC=C1)CN[C@H](CO)C | C10H15NO
reactant | K2CO3 | 191.0 mmol, 26.40 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroacetyl chloride | 89.14 mmol, 7.10 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | chloroacetyl chloride | 6.278 mmol, 0.500 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | NaOH | ca. 20 mL | [OH-].[Na+]
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | water | 65 mL | O | H2O
product | (5S)-5-methyl-4-(phenylmethyl)-3-morpholinone | 12.74 g, 97% | C[C@H]1COCC(N1CC1=CC=CC=C1)=O | C12H15NO2
